US08242104B2
2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (0.20 g, 0.49 mmol), 4-trifluoromethanesulphonyloxy-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (0.29 g, 0.75 mmol), potassium acetate (0.12 g, 1.22 mmol), Pd(dppf)2Cl2.DCM (0.04 g, 0.05 mmol), DME:IMS:water 7:2:1 (5 mL), were sealed in a microwave vial and heated by microwave irradiation at 120° C. for 10 min. The reaction mixture was cooled to RT, water and DCM were added, the organic layer separated, washed with water, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 5% methanol in DCM) to give 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (239 mg, 91%). 1H NMR 300 MHz (CDCl3) δ: 8.49 (1H, d, J=8.30 Hz), 7.87 (1H, d, J=0.64 Hz), 7.64 (1H, s), 6.92 (1H, dd, J=8.31, 1.80 Hz), 6.84 (1H, d, J=1.77 Hz), 6.00 (1H, m), 4.49-4.47 (4H, m), 4.27 (2H, s), 3.62 (2H, t, J=5.69 Hz), 3.57 (2H, s), 2.50 (3H, s), 1.59 (6H, d, J=6.63 Hz), 1.51 (9H, s).

reactant | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 0.49 mmol, 0.20 g | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)B3OC(C(O3)(C)C)(C)C | C22H28BN5O3
reactant | 4-trifluoromethanesulphonyloxy-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 0.75 mmol, 0.29 g | COC(=O)C1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H20F3NO7S
reactant | potassium acetate | 1.22 mmol, 0.12 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DCM | 0.05 mmol, 0.04 g | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 239 mg, 91% | COC(=O)C=1CN(CCC1C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C(=O)OC(C)(C)C | C28H34N6O5
